US07429665B2
7-Chloro-2-[4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline hydrogen chloride
Following the procedure for the preparation of 4-(Quinolin-2-ylmethoxy)-benzoic acid methyl ester but substituting 4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenol and 7-chloro-2-chloromethyl-quinoline provided the title compound. 1H NMR (400 MHz, DMSO) δ 8.66 (d, J=6.6 Hz, 2H), 8.54 (s, 1 H), 8.47 (d, J=8.3, 2H), 8.04 (m, 2H), 7.70 (m, 2H), 7.65 (m, 1H), 7.36 (d, J=8.7 Hz, 2H), 7.12 (d, J=8.7, 2H), 5.38 (s, 2H), 3.90 (s, 3 H); MS: (M+H m/z=427.1).

reactant | 4-(Quinolin-2-ylmethoxy)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O | C18H15NO3
reactant | 4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenol | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(C=C1)O | C15H13N3O
reactant | 7-chloro-2-chloromethyl-quinoline | ClC1=CC=C2C=CC(=NC2=C1)CCl | C10H7Cl2N
product | 7-Chloro-2-[4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline hydrogen chloride | Cl.ClC1=CC=C2C=CC(=NC2=C1)COC1=CC=C(C=C1)C1=NN(C=C1C1=CC=NC=C1)C | InChI=1S/C25H19ClN4O.ClH/c1-30-15-23(17-10-12-27-13-11-17)25(29-30)19-4-8-22(9-5-19)31-16-21-7-3-18-2-6-20(26)14-24(18)28-21;/h2-15H,16H2,1H3;1H
